US04460579
A mixture of S-(2-aminoethyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-cysteine, methyl ester (7.5 g., 26.9 mmole), 1N sodium hydroxide (31.0 ml., 1.15 eq.), and dioxane (30 ml.) is stirred at room temperature for 2 hours. The reaction is then treated with 1N hydrochloric acid (4.1 ml.) to quench excess hydroxide. The dioxane and water are evaporated and the residual water is removed azeotropically with acetonitrile (twice). The resulting foam is taken into dry dimethylformamide (100 ml.), treated with diphenylphosphoryl azide (6.5 ml., 1.1 eq.), and stirred under argon at 25° for 3.5 days. The reaction mixture is diluted with ethyl acetate and washed successively with water, saturated sodium bicarbonate, 5% potassium bisulfate, brine, dried (MgSO4), and evaporated. The residue (3.0 g.) is taken up in hot ethyl acetate and upon cooling 1.1 g. of the product crystallizes as a colorless solid. The mother liquor (1.9 g.) is chromatographed on silica (70 g.) eluting with 5% acetone/methylene chloride to give an additional 0.4 g. of product as a slightly colored solid. A small portion of the product is recrystallized from toluene to give (hexahydro-5-oxo-1,4-thiazepin-6-yl)carbamic acid, (1,1-dimethylethyl) ester as fine colorless needles; m.p. 199.5°-201°. TLC (10% acetone/methylene chloride) single spot at Rf =0.49.

reactant | S-(2-aminoethyl)-N-[(1,1-dimethylethoxy)carbonyl]-L-cysteine, methyl ester | 26.9 mmole, 7.5 g | NCCSC[C@H](NC(=O)OC(C)(C)C)C(=O)OC | C11H22N2O4S
reactant | sodium hydroxide | 1N, 31.0 ml, 1.15 eq. | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 4.1 ml | Cl | ClH
reactant | diphenylphosphoryl azide | 6.5 ml, 1.1 eq. | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | (hexahydro-5-oxo-1,4-thiazepin-6-yl)carbamic acid, (1,1-dimethylethyl) ester | O=C1NCCSCC1NC(OC(C)(C)C)=O | C10H18N2O3S
